US07550469B2
31a: Preparation of 4-[1-(3-bromo-4-methyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester
Under inert conditions, add a 2.0 M solution (in tetrahydrofuran/n-heptane) of lithium diisopropylamide (29.65 mmol, 14.83 mL, 1.05 equivalents) to a cold (−78° C.) solution of 3-bromo-4-methylthiophene (28.24 mmol, 5.00 g, 1.00 equivalents) in dry tetrahydrofuran (27.33 mL). Stir at −78° C. for 1 hour and add a solution of 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (28.24 mmol, 7.69 g, 1.00 equivalents), dropwise. Continue stirring at −78 ° C. for 3 hours. Quench the reaction mixture with saturated ammonium chloride (aqueous, 55 mL) and allow to warm to room temperature. Extract the reaction mixture with a mixture of ethyl acetate : diethyl ether (1:1, 3×40 mL). Combine the extracts and dry over magnesium sulfate, filter and evaporate. Purify the residue via flash column chromatography using a mixture of n-heptane:ethyl acetate (4:1) to yield a yellow, crystalline solid (9.84 g).

reactant | lithium diisopropylamide | 29.65 mmol, 14.83 mL, 1.05 equivalents | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-bromo-4-methylthiophene | 28.24 mmol, 5.00 g, 1.00 equivalents | BrC1=CSC=C1C | C5H5BrS
reactant | 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 28.24 mmol, 7.69 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C13H24N2O4
solvent | tetrahydrofuran | 27.33 mL | O1CCCC1 | C4H8O
product | 4-[1-(3-bromo-4-methyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 9.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C=1SC=C(C1Br)C | C16H22BrNO3S
